US08242104B2
To 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (140 mg, 0.53 mmol) in DMF (20 mL) and water (2 mL) was added 2-Fluoropyridine-3-boronic acid (89 mg, 0.632 mml), Potassium acetate (207 mg, 2.11 mmol) and Tetrakis(triphenylphosphine)palladium (30 mg, 0.0264 mmol). The reaction mixture was degassed for 5 minutes, and heated at 100° C. overnight. LCMS showed desired product peak. The reaction was allowed to cool to room temperature, diluted with EtOAc, and filtered through a thin pad of celite. The filtrate was washed with water followed by brine, dried over MgSO4 and concentrated. The crude residue was purified by Prep HPLC to provide 10-(2-fluoropyridin-3-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine. LC/MS (ESI+): m/z 282 (M+H)

reactant | 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.53 mmol, 140 mg | BrC=1C=CC2=C(C=3N(CCO2)C=CN3)C1 | C11H9BrN2O
reactant | 2-Fluoropyridine-3-boronic acid | 89 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | Potassium acetate | 2.11 mmol, 207 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.0264 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 10-(2-fluoropyridin-3-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | FC1=NC=CC=C1C=1C=CC2=C(C=3N(CCO2)C=CN3)C1 | C16H12FN3O
